US05688796
Preparation of [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]pyridin-5-yl]methanone
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-chloropyridin-5-yl]methanone (1 g, 2.44 mmol) was dissolved in 10 mL of benzene and 950 mg (7.32 mmol) of 2-hydroxyethyl-1-piperidine was added. To the reaction mixture was added 85 mg (3.7 mmol) of sodium and the reaction was stirred at ambient temperature under a nitrogen atmosphere until all the sodium dissolved. The reaction was heated to 70° C. for two and half hours, then allowed to cool. To the reaction solution was added 150 mL of EtOAc and the solution was washed three times with saturated aqueous Na2CO3. The organic layer was separated and evaporated to dryness. The crude product was chromatographed on a silica gel column eluted with a linear gradient beginning with CHCl3 and ending with CHCl3 -MeOH (19:1). The desired fraction were determined by tlc, combined, and evaporated to dryness. This yielded the title compound as a yellow, amorphous solid.

reactant | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-chloropyridin-5-yl]methanone | 2.44 mmol, 1 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C=2C=CC(=NC2)Cl | C22H16ClNO3S
reactant | sodium | 3.7 mmol, 85 mg | [Na] | Na
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]pyridin-5-yl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C=2C=CC(=NC2)OCCN2CCCCC2 | C29H30N2O4S
